US05705456
a) 5-Chloro-3-(3-trifluoromethoxyphenyl)oxazolidin-4-one
Oxalyl chloride (2.7 ml) was added dropwise over 1 min to a stirred solution of 5-hydroxy-3-(3-trifluoromethoxyphenyl)oxazolidin-4-one (8.17 g) in DCM (60 ml) containing DMF (1 drop) at 0° C. The mixture was allowed to warm to room temperature and once gas evolution had stopped the solvent was removed in vacuo to give the sub-title compound (8.5 g) which was used directly in the next step.

reactant | Oxalyl chloride | 2.7 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-hydroxy-3-(3-trifluoromethoxyphenyl)oxazolidin-4-one | 8.17 g | OC1C(N(CO1)C1=CC(=CC=C1)OC(F)(F)F)=O | C10H8F3NO4
solvent | DCM | 60 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 5-Chloro-3-(3-trifluoromethoxyphenyl)oxazolidin-4-one | 8.5 g | ClC1C(N(CO1)C1=CC(=CC=C1)OC(F)(F)F)=O | C10H7ClF3NO3
